US06011046
4-[5-(2,3-dihydro-5-hydroxy-6,7-dimethoxy-2,4-dimethylbenzofuran-2-yl)pentyl]morpholine
Lithium aluminum hydride (0.50 g) was added to a solution (30 ml) of 4-[5-(2,3-dihydro-5-hydroxy-6,7-dimethoxy-2,4-dimethylbenzofuran-2-yl)pentanoyl]morpholine (2.6 g) in tetrahydrofuran, and the mixture was stirred at room temperature for 30 minutes. The reaction mixture was poured into an aqueous sodium hydrosulfite solution, and the insoluble materials were filtered off. The filtrate was extracted with ethyl acetate. The extract was washed with saturated brine, dried over anhydrous sodium sulfate and concentrated under reduced pressure. The residue was purified by column chromatography on silica gel (ethyl acetate:methanol =95:5) to obtain the title compound (2.2 g, 88%) as an oil.

reactant | Lithium aluminum hydride | 0.50 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 4-[5-(2,3-dihydro-5-hydroxy-6,7-dimethoxy-2,4-dimethylbenzofuran-2-yl)pentanoyl]morpholine | 30 ml, 2.6 g | OC=1C(=C(C2=C(CC(O2)(C)CCCCC(=O)N2CCOCC2)C1C)OC)OC | C21H31NO6
reactant | sodium hydrosulfite | S(=O)([O-])S(=O)[O-].[Na+].[Na+]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 4-[5-(2,3-dihydro-5-hydroxy-6,7-dimethoxy-2,4-dimethylbenzofuran-2-yl)pentyl]morpholine | 2.2 g, 88% | OC=1C(=C(C2=C(CC(O2)(C)CCCCCN2CCOCC2)C1C)OC)OC | C21H33NO5
